US05604229
Diethyl 2-acetamidomalonate (3.0 g) was dissolved in 50 ml of dry ethanol and 1.3 g of sodium ethoxide was added thereto. A solution of 6.0 g of icosyl bromide in 20 ml of dry ethanol was added thereto while stirring at room temperature. The inside of the reaction vessel was displaced with nitrogen and the mixture was refluxed for about 15 hours. The mixture was neutralized with a 1N aqueous hydrochloric acid solution and concentrated. The concentrate was purified by silica gel column chromatography to give 4 g of diethyl 2-acetamido-2-icosylmalonate.

reactant | Diethyl 2-acetamidomalonate | 3.0 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | sodium ethoxide | 1.3 g | [O-]CC.[Na+]
reactant | icosyl bromide | 6.0 g | C(CCCCCCCCCCCCCCCCCCC)Br | C20H41Br
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | diethyl 2-acetamido-2-icosylmalonate | 4 g | C(C)(=O)NC(C(=O)OCC)(C(=O)OCC)CCCCCCCCCCCCCCCCCCCC | C29H55NO5
